US06806367B2
Preparation of 2-chloro-3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-4(3H)-pyrimidinone (Compound III-1)
A mixture of 3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione(4.5 g, 0.01 mol), phosphorus oxychloride(1.5 g, 0.01 mol), triethylamine(2.0 g, 0.02 mol) and toluene(14 ml) was heated under reflux for 24 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate solution contained 3.5 g(yield 76%) of the above compound III-1(HPLC analysis). The ethyl acetate solution was concentrated and purified by column chromatography on silica gel(20% ethyl acetate/hexane) to give compound III-1 as a white solid, m.p.128-131° C.

reactant | 3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 0.01 mol, 4.5 g | ClC1=CC(=C(C=C1OC1=C(C=CC=C1)[N+](=O)[O-])N1C(NC(=CC1=O)C(F)(F)F)=O)F | C17H8ClF4N3O5
reactant | phosphorus oxychloride | 0.01 mol, 1.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 0.02 mol, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-chloro-3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-4(3H)-pyrimidinone | 3.5 g, yield 76% | ClC1=NC(=CC(N1C1=C(C=C(C(=C1)OC1=C(C=CC=C1)[N+](=O)[O-])Cl)F)=O)C(F)(F)F | C17H7Cl2F4N3O4
